US06806267B1
7-((Dimethylcarbamoyl)oxy)-6-(1-naphthyl)pyrrolo[2,1-d][1,5]benzothiazepine (PBOX-8)
To a suspension of potassium hydride (0.167 g, 1.46 mmol, 35% in oil) in anhydrous THF (4.0 mL) was added the the (±)-6-(1-naphthyl)pyrrolo[2,1-d][1,5]benzothiazepin-7(6H)-one (500 mg, 1.46 mmol) dissolved in anhydrous THF (5 mL). The reaction mixture was stirred at rt for 2 h, and then dimethylcarbamoyl chloride (0.181 g, 1.68 mmol) was slowly added. After stirring for 8 h at 30° C., the solvent was removed in vacuo and the residue was dissolved in EtOAc. The organic layer was washed with brine, dried and concentrated. The residue was chromatographed (dichloromethane) to give the PBOX-8 in 82% yield. IR (neat) 1725 cm−1; 1HNMR (CDCl3) δ 2.43 (s, 3 H), 2.58 (s, 3 H), 6.45 (m, 1 H), 6.64 (m, 1 H), 7.18-7.57 (m, 10 H), 7.77-7.86 (m, 2 H).

reactant | potassium hydride | 1.46 mmol, 0.167 g | [H-].[K+]
reactant | (±)-6-(1-naphthyl)pyrrolo[2,1-d][1,5]benzothiazepin-7(6H)-one | 1.46 mmol, 500 mg | C1(=CC=CC2=CC=CC=C12)C1SC2=C(N3C(C1=O)=CC=C3)C=CC=C2 | C22H15NOS
reactant | dimethylcarbamoyl chloride | 1.68 mmol, 0.181 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | THF | 4.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 7-((Dimethylcarbamoyl)oxy)-6-(1-naphthyl)pyrrolo[2,1-d][1,5]benzothiazepine | 82% yield | CN(C(=O)OC1=C(SC2=C(N3C1=CC=C3)C=CC=C2)C2=CC=CC3=CC=CC=C23)C | C25H20N2O2S
